US09102591B2
A solution of 4,4-difluoro-N-methoxy-N-methyl-1-(2-methylpyrimidin-5-yl)cyclohexanecarboxamide (700 mg, 2.34 mmol) in THF (20 mL) was added MeMgBr (11.7 mL, 35.12 mmol, 3M in Et2O) at 0° C. and stirred at room temperature for 4 h. The reaction mixture was quenched by saturated NH4Cl at 0° C. and extracted with EtOAc (2×50 mL). The organic layer was washed with brine, dried over Na2SO4 and concentrated to give crude product, which was purified by flash chromatography (EtOAc: petroluem ether=1:3˜3:2) to give 1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanone (350 mg, yield: 59%). 1H NMR (CDCl3 400 MHz): δ8.58 (s, 2H), 2.73 (s, 3H), 2.55-2.45 (m, 2H), 2.20-1.85 (m, 9H).

reactant | 4,4-difluoro-N-methoxy-N-methyl-1-(2-methylpyrimidin-5-yl)cyclohexanecarboxamide | 2.34 mmol, 700 mg | FC1(CCC(CC1)(C(=O)N(C)OC)C=1C=NC(=NC1)C)F | C14H19F2N3O2
reactant | MeMgBr | 35.12 mmol, 3M, 11.7 mL | C[Mg+].[Br-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanone | 350 mg, yield: 59% | FC1(CCC(CC1)(C=1C=NC(=NC1)C)C(C)=O)F | C13H16F2N2O
